US07585874B2
b) 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine
A mixture of [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-carbamic acid tert-butyl ester (1.0 g, 2.56 mmol) in hydrochloric acid (4 M in dioxane, 29 mL) was stirred at room temperature for 6 h. The precipitate was then filtered off and dissolved in a dilute solution of sodium hydrogen carbonate and then extracted with ethyl acetate. The organic layer was then washed with brine and then dried over sodium sulphate and evaporated to leave a brown foam. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 25:75) afforded the title compound (477 mg, 64%) which was obtained as a light brown foam. MS: m/e=291.1 [M+H]+.

reactant | [2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-yl]-carbamic acid tert-butyl ester | 2.56 mmol, 1.0 g | C(C)(C)(C)OC(NC1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2)=O | C22H22N4O3
solvent | hydrochloric acid | 4 M, 29 mL | Cl | ClH
product | 2-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridin-7-ylamine | 477 mg, 64% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C2N(C=CC(=C2)N)C1 | C17H14N4O
